US07312225B2
13b) Production of 3-[4-(5-Benzyloxycarbonylamino-pentylamino)-5-bromo-pyrimidin-2-ylamino]-benzoic Acid
A reaction mixture of 1.20 g (2.8 mmol) of [5-(5-bromo-2-chloro-pynmidin-4-ylamino)-pentyl]-carbamic acid-benzyl ester and 0.37 g (2.7 mmol) of 3-aminobenzoic acid in acetonitrile/water (8 ml/1.5 ml) is stirred under reflux for 20 hours. The reaction mixture is spun in, and the remaining residue is purified by chromatography (dichloromethane/methanol 9:1, Flashmaster II). 1.27 g (2.4 mmol, corresponding to 86% of theory) of the product is obtained.

reactant | [5-(5-bromo-2-chloro-pynmidin-4-ylamino)-pentyl]-carbamic acid-benzyl ester | 2.8 mmol, 1.20 g | C(C1=CC=CC=C1)OC(NCCCCCNC1=NC(=NC=C1Br)Cl)=O | C17H20BrClN4O2
reactant | 3-aminobenzoic acid | 2.7 mmol, 0.37 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | acetonitrile water | 8 ml | C(C)#N.O
product | 3-[4-(5-Benzyloxycarbonylamino-pentylamino)-5-bromo-pyrimidin-2-ylamino]-benzoic Acid | C(C1=CC=CC=C1)OC(=O)NCCCCCNC1=NC(=NC=C1Br)NC=1C=C(C(=O)O)C=CC1 | C24H26BrN5O4
